.SUBCKT D20V0L1B2WS 1 2
* Pin 1 = Electrode 1
* Pin 2 = Electrode 2 
*  Terminals    A   K
D1	  1    3     TvsDiode
D2	  2    3     TvsDiode
.ENDS D20V0L1B2WS
*
.MODEL TvsDiode d
+IS=1e-13 RS=0.25 N=0.957115 EG=1.3
+XTI=4 BV=6.48 IBV=0.00025 CJO=32e-12
+VJ=0.980233 M=0.39895 FC=0.5 TT=1e-09
+KF=0 AF=1
