.SUBCKT D20V0L1B2WS 1 2
* Pin 1 = Electrode 1
* Pin 2 = Electrode 2 
*  Terminals    A   K
D1	  1    3     TvsDiode
D2	  2    3     TvsDiode
.ENDS D20V0L1B2WS
*
.MODEL TvsDiode d
+IS=1e-13
+RS=0.25
+TT=1e-09
+N=0.957115
+CJO=32e-12
+VJ=0.980233
+M=0.39895
+EG=1.3
+KF=0
+AF=1
+FC=0.5
+XTI=4
+BV=25 
+IBV=0.00025